US06462198B1
(2,2-Diphenyl-propionyl)-carbamic acid butyl ester
The title compound, white solid, m.p.=83° C. and MS: m/e=325.4 (M+H+) was prepared in accordance with the general method of example 1 from 2,2-diphenylpropionyl isocyanate and butan-1-ol.

reactant | 2,2-diphenylpropionyl isocyanate | C1(=CC=CC=C1)C(C(=O)N=C=O)(C)C1=CC=CC=C1 | C16H13NO2
reactant | butan-1-ol | C(CCC)O | C4H10O
product | (2,2-Diphenyl-propionyl)-carbamic acid butyl ester | C(CCC)OC(NC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C20H23NO3
